US20010020034A1
3-(2,6-Difluoro-4-methyl-benzyloxy)-5-[3-(4-hydroxy-5-piperidin-1-yl-pentyl)-ureido]-isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2,6-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and 5-amino-1-piperidin-1-yl-pentan-2-ol by the procedure analogous to Example 1. MS (APCl, m/z): 512 [M+H]+.

reactant | [4-carbamoyl-3-(2,6-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C=C1F)C)F)C(N)=O)=O | C19H15F2N3O4S
reactant | 5-amino-1-piperidin-1-yl-pentan-2-ol | NCCCC(CN1CCCCC1)O | C10H22N2O
product | 3-(2,6-Difluoro-4-methyl-benzyloxy)-5-[3-(4-hydroxy-5-piperidin-1-yl-pentyl)-ureido]-isothiazole-4-carboxylic acid amide | FC1=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCCC(CN2CCCCC2)O)C(=CC(=C1)C)F | C23H31F2N5O4S
